US06211203B1
9. N-(2,6-Dichloro-4-carboxyphenyl)-7-methoxy-2-(1-methylethyl)benzofuran-4-carboxamide
3.7 g of N-(2,6-Dichloro-4-methoxycarbonylphenyl)-7-methoxy-2-(1-methylethyl)benzofuran-4-carboxamide are refluxed for 15 min. in 20 ml of diethylene glycol and 30 ml of water in which 0.41 g of caustic soda is dissolved. The solution is diluted with water and acidified to pH 2 using 2 N sulfuric acid. The product precipitates in this process. It is filtered off with suction on a suction filter, washed free of acid with water and dried in vacuo: m.p. 279° C.

reactant | N-(2,6-Dichloro-4-methoxycarbonylphenyl)-7-methoxy-2-(1-methylethyl)benzofuran-4-carboxamide | 3.7 g | ClC1=C(C(=CC(=C1)C(=O)OC)Cl)NC(=O)C=1C=CC(=C2C1C=C(O2)C(C)C)OC | C21H19Cl2NO5
reactant | sulfuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | diethylene glycol | 20 ml | C(COCCO)O | C4H10O3
solvent | caustic soda | 0.41 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | N-(2,6-Dichloro-4-carboxyphenyl)-7-methoxy-2-(1-methylethyl)benzofuran-4-carboxamide | ClC1=C(C(=CC(=C1)C(=O)O)Cl)NC(=O)C=1C=CC(=C2C1C=C(O2)C(C)C)OC | C20H17Cl2NO5
